US07223767B2
A solution of potassium t-butoxide (8.4 g, 75 mmol), acetamidine hydrochloride (7.1 g, 75 mmol) and 3-methyl-2-oxo-3-phenyl-cyclohexanecarboxylic acid methyl ester (30 mmol) in 150 mL of ethanol was stirred at room temperature for 12 hours and then heated under reflux for 2 hours. The mixture was concentrated under reduced pressure, diluted with water, and washed with ether. The aqueous layer was neutralized with HCl and filtered to afford 4.0 g of 2,8-dimethyl-8-phenyl-5,6,7,8-tetrahydro-quinazolin-4-ol as a white solid.

reactant | potassium t-butoxide | 75 mmol, 8.4 g | CC(C)([O-])C.[K+]
reactant | acetamidine hydrochloride | 75 mmol, 7.1 g | Cl.C(C)(=N)N
reactant | 3-methyl-2-oxo-3-phenyl-cyclohexanecarboxylic acid methyl ester | 30 mmol | COC(=O)C1C(C(CCC1)(C1=CC=CC=C1)C)=O | C15H18O3
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 2,8-dimethyl-8-phenyl-5,6,7,8-tetrahydro-quinazolin-4-ol | 4.0 g | CC1=NC=2C(CCCC2C(=N1)O)(C1=CC=CC=C1)C | C16H18N2O
